US06448397B1
To a mixture of 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol (1.05 g 3.49 mmol) in DMF (15 mL) is added potassium carbonate (2.4 g, 17.4 mmol) and bromoacetonitrile (1.2 mL, 17.4 mmol). The mixture is heated at 85° C. for 1.5 h. The mixture is cooled and partitioned between water and Et2O. The organic layer is washed twice with water (200 mL), dried over magnesium sulfate and concentrated. Column chromatography (60 g silica gel) using CH2C2 as eluent gave 1.1 g (92%) of 2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]acetonitrile.

reactant | 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol | 3.49 mmol, 1.05 g | C1(=CC=CC=C1)C1COC=2C=CC=C3C4=C(C=CC=C4N1C23)O | C20H15NO2
reactant | potassium carbonate | 17.4 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 17.4 mmol, 1.2 mL | BrCC#N | C2H2BrN
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]acetonitrile | 1.1 g, 92% | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCC#N | C22H16N2O2
